US08461134B2
tert-Butyl 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetate
To the solution of 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid (2.2 g, 6 mmol) in dry THF (20 ml) under nitrogen, added the solution of tert-butyl 2,2,2-trichloroacetate (4.3 ml, 24 mmol) in dry DCM (10 ml), followed by BF3Et2O (0.1 ml, 0.72 mmol). The reaction was stirred at rt overnight. Quenched the reaction with sodium bicarbonate (sat. in water), diluted with EtOAc, washed with 1N HCl, water and brine, dried over anhydrous sodium sulfate. Concentrated, the result was purified by flash chromatography with EtOAc and hexane. Got 650 mg light yellow solid as product. MS calcd for (C19H23BN2O6S): 418.14. MS found (ESI negative): (M−H)−=417.0. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.83 (s, 1H), 7.46 (d, J=8.8 Hz, 1H), 7.40 (d, J=1.6 Hz, 1H), 7.19 (d, J=8 Hz, 1H), 7.09 (dd, J=8 Hz, 1H), 6.39 (d, J=6.8 Hz, 1H), 6.37 (s, 1H), 4.84 (s, 2H), 3.77 (s, 2H), 1.37 (s, 9H).

reactant | 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 6 mmol, 2.2 g | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
reactant | tert-butyl 2,2,2-trichloroacetate | 24 mmol, 4.3 ml | ClC(C(=O)OC(C)(C)C)(Cl)Cl | C6H9Cl3O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetate | NC=1C=CC(=C(C1)CC(=O)OC(C)(C)C)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C19H23BN2O6S
